US06900215B2
A mixture of 2-bromobenzonitrile (20 g, 110 mmol), bis-(pinacolato)diboron (30.4 g, 120 mmol) and potassium acetate (32.4 g, 330 mmol) in 1,4-dioxane (100 ml) and dimethylsulfoxide (20 ml) was degassed with nitrogen for 30 min. Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct (2.00 g, 2.73 mmol) was added and the mixture heated at 90° C. for 18 h. The mixture was cooled to ambient temperature and partitioned between diethyl ether and 2N sodium hydroxide solution. The organics were discarded and the aqueous phase cooled to 0° C. and adjusted to pH 7 by the addition of 36% hydrochloric acid. The solid was collected by filtration, washed with water and left to air dry to give 2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile (19 g, 76%) as an off-white solid: δH (360 MHz, CDCl3) 1.39 (12H, s), 7.52-7.57 (2H, m), 7.68-7.71 (1H, m), 7.87-7.89 (1H, m).

reactant | 2-bromobenzonitrile | 110 mmol, 20 g | BrC1=C(C#N)C=CC=C1 | C7H4BrN
reactant | bis-(pinacolato)diboron | 120 mmol, 30.4 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 330 mmol, 32.4 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
catalyst | Dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane adduct | 2.73 mmol, 2.00 g | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
product | 2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)benzonitrile | 19 g, 76% | CC1(OB(OC1(C)C)C1=C(C#N)C=CC=C1)C | C13H16BNO2
